US07737149B2
4-(1,2,3,4,4a,5,7,7a-octahydropyrrolo[3,4-b]pyridin-6-yl)-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]benzamide
4-(1,2,3,4,4a,5,7,7a-octahydropyrrolo[3,4-b]pyridin-6-yl)-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]benzamide was prepared following the procedure as for Example 115, but starting from methyl 4-(1,2,3,4,4a,5,7,7a-octahydropyrrolo[3,4-b]pyridin-6-yl)benzoate (0.221 g, 0.85 mmol) and 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine HCl (0.243 g, 0.85 mmol) and 2M trimethylaluminium in toluene (1.06 ml, 2.13 mmol). The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (0.124 g, 30.5%) as a white solid.

reactant | methyl 4-(1,2,3,4,4a,5,7,7a-octahydropyrrolo[3,4-b]pyridin-6-yl)benzoate | 0.85 mmol, 0.221 g | N1C2C(CCC1)CN(C2)C2=CC=C(C(=O)OC)C=C2 | C15H20N2O2
reactant | 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine HCl | 0.85 mmol, 0.243 g | Cl.COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)N
reactant | trimethylaluminium | 2M | C[Al](C)C
reactant | toluene | 2.13 mmol, 1.06 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1,2,3,4,4a,5,7,7a-octahydropyrrolo[3,4-b]pyridin-6-yl)-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]benzamide | 0.124 g, 30.5% | N1C2C(CCC1)CN(C2)C2=CC=C(C(=O)NC=1NN=C(C1)OCC1=CC(=CC(=C1)OC)OC)C=C2 | C26H31N5O4
